US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]oxazole (1.00 g), 2-phenylimidazole (432 mg), potassium carbonate (1.38 g) and N,N-dimethylformamide (10 ml) was stirred at 120-130° C. for 1 hour. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (10 ml×2). The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]-2-(2-phenyl-1-imidazolyl)oxazole was obtained as an oil (512 mg, 39%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]oxazole | 1.00 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)C | C19H17Cl2NO2
reactant | 2-phenylimidazole | 432 mg | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]-2-(2-phenyl-1-imidazolyl)oxazole | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)C)N1C(=NC=C1)C1=CC=CC=C1 | C28H24ClN3O2
